US06451811B2
Ethyl 6-iodo-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxylate (3.63 g) is dissolved in MeOH (200 mL). To this is added 6N NaOH (60 mL) and the resulting mixture is stirred at room temperature for 4 h. The white suspension is poured into a seperatory funnel and the organic layer is made acidic with HCl, extracted several times with CH2Cl2 (total volume 4 L), washed with water, brine, dried (MgSO4), filtered and concentrated in vacuo to afford 3.2 g (96%) of 6-iodo-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxylic acid. Physical characteristics are as follows: 1H NMR (CDCl3) δ 14.62, 9.09, 8.81, 4.19, 4.05; IR (diffuse reflectance) 2497, 2350, 2338, 2086, 1990, 1720, 1716, 1628, 1525, 1482, 1464, 1448, 1385, 1278, 810, cm−1; MS (EI) m/z 360, 316, 185, 159, 158, 142, 86, 84, 63, 53, 51; Anal calcd for C11H9IN2O4: C, 36.69; H, 2.52; N, 7.78. Found: C, 36.93; H, 2.57; N, 7.77.

reactant | Ethyl 6-iodo-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxylate | 3.63 g | IC=1C=C2C(C(=CN(C2=NC1OC)C)C(=O)OCC)=O | C13H13IN2O4
reactant | NaOH | 6N, 60 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 200 mL | CO | CH4O
product | 6-iodo-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxylic acid | 3.2 g, 96% | IC=1C=C2C(C(=CN(C2=NC1OC)C)C(=O)O)=O | C11H9IN2O4
